* pipeline2.0 netlist
* circuit: b10

VVTEST_A N001 0 DC 1
VVTEST_C N003 0 DC 0
Icurrent_source6_1 N001 0 DC 0
Icurrent_source6_2 N001 N002 DC 1e-12
Icurrent_source6_3 N002 0 DC 1e-09
Cpolarized_capacitor20_1 N001 0 5p
Cpolarized_capacitor20_2 N001 N003 5p
Cpolarized_capacitor20_3 N001 N002 5p
Cpolarized_capacitor20_4 N003 N002 5p
Cpolarized_capacitor20_5 N002 0 5p
Rresistor22_1 N001 N004 10
Rresistor22_2 N001 N002 1000meg
* switch25.1 open in base run; closed by scenario close_switch
Vvoltage_source31_1 N005 N002 DC 0.001

* scenario close_switch: switch25.1 modeled as RSCENARIO_switch25_1 N004 N005 1m
RSCENARIO_switch25_1 N004 N005 1m
.op
.save all
.tran 1us 100us

.control
set wr_singlescale
set wr_vecnames
run
wrdata 08_tran.csv time v(N001) v(N002) v(N003) v(N004) v(N005)
.endc
.end
